US07923561B2
rac-7-Methoxy-indane-1-ylamine
7-Methoxy-indan-1-one oxime (5 g, 28 mmol) was suspended in 250 mL methanol. Palladium on charcoal (10%, 0.3 g) was added and the reaction was hydrogenated with a hydrogen ballon for 5 days. Palladium on charcoal was filtered off and the filtrate was evaporated. The title compound was obtained as a yellow liquid (1.89, 41%) and used without any further purification for the next step.

reactant | 7-Methoxy-indan-1-one oxime | 28 mmol, 5 g | COC=1C=CC=C2CCC(C12)=NO | C10H11NO2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 250 mL | CO | CH4O
catalyst | Palladium on charcoal | 0.3 g | [Pd] | Pd
product | rac-7-Methoxy-indane-1-ylamine | COC=1C=CC=C2CCC(C12)N | C10H13NO
